US04762942
1-(2-Hexyl-5-tetradecylphenoxy)-3-(triphenylmethoxy)-2-propanol
A mixture of 12.77 g of 3-(2-hexyl-5-tetradecylphenoxy)-1,2-propanediol, 13.5 g of trityl chloride and 40 ml of pyridine was stirred for 24 hours, then diluted with chloroform, washed with aqueous sodium bicarbonate, water and dried. This crude material was chromatographed on silica gel, eluting with 17% ethyl acetate in hexane, giving 14 g of the desired compound.

reactant | 3-(2-hexyl-5-tetradecylphenoxy)-1,2-propanediol | 12.77 g | C(CCCCC)C1=C(OCC(CO)O)C=C(C=C1)CCCCCCCCCCCCCC | C29H52O3
reactant | trityl chloride | 13.5 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-(2-Hexyl-5-tetradecylphenoxy)-3-(triphenylmethoxy)-2-propanol | 14 g | C(CCCCC)C1=C(OCC(COC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)O)C=C(C=C1)CCCCCCCCCCCCCC | C48H66O3
